US04070539
By following substantially the procedure described in Example 12, Step B, and using as the reactants (1-oxo-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid (2.89 g., 0.01 mole), glacial acetic acid (50 ml.), chlorine (710 mg., 0.01 mole) and concentrated hydrochloric acid (1 drop) there is obtained (1-oxo-2-methyl-2,6,7-trichloro-5-indanyloxy)acetic acid.

reactant | (1-oxo-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid | 0.01 mole, 2.89 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)C | C12H10Cl2O4
reactant | chlorine | 0.01 mole, 710 mg | ClCl | Cl2
catalyst | hydrochloric acid | 1 drop | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | (1-oxo-2-methyl-2,6,7-trichloro-5-indanyloxy)acetic acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(Cl)C | C12H9Cl3O4
